US07795436B2
cis-3-Benzyl-8-(2,4-dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one
The title compound (90 mg, 0.21 mmol) was prepared by following the procedure of example 3 from cis-3-benzyl-8-bromo-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one (172 mg, 0.51 mmol), 2,4-dichlorophenylboronic acid (153 mg, 0.80 mmol), barium hydroxide octahydrate (317 mg, 1.0 mmol) and triphenylphosphine (18 mg, 0.067 mmol) and palladium(II) acetate (3.8 mg, 0.017 mmol) in DMF (6.0 mL)/H2O (1.2 mL): MS (ES) 422.1 (M+H).

reactant | cis-3-benzyl-8-bromo-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 0.51 mmol, 172 mg | C(C1=CC=CC=C1)N1CC[C@H]2C(C3=C(C=CC=C3[C@H]2C1)Br)=O | C19H18BrNO
reactant | 2,4-dichlorophenylboronic acid | 0.80 mmol, 153 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | barium hydroxide octahydrate | 1.0 mmol, 317 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | triphenylphosphine | 0.067 mmol, 18 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.017 mmol, 3.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | H2O | 1.2 mL | O | H2O
product | cis-3-Benzyl-8-(2,4-dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 0.21 mmol, 90 mg | C(C1=CC=CC=C1)N1CC[C@H]2C(C3=C(C=CC=C3[C@H]2C1)C1=C(C=C(C=C1)Cl)Cl)=O | C25H21Cl2NO
